US07425641B2
a. 1-(3-bromo-phenyl)-1-cyclopropane-nitril
25 g (0.13 mol) of 3-bromo-benzylcyanide are taken up in 32 ml (0.38 mol) of 1-bromo-2-chloro-ethane and combined with 0.6 g (2.6 mmol) of benzyltriethylammonium chloride. Then a solution of 105.8 g (2.65 mol) of sodium hydroxide in 106 ml of water is added dropwise at 10 to 25° C. After 20 hours at 55° C. the reaction solution is poured onto ice water and extracted with ethyl acetate. The organic extracts are dried and evaporated down. The residue is triturated with petroleum ether, suction filtered and dried.

reactant | 3-bromo-benzylcyanide | 0.13 mol, 25 g | BrC=1C=C(CC#N)C=CC1 | C8H6BrN
reactant | 1-bromo-2-chloro-ethane | 0.38 mol, 32 ml | BrCCCl | C2H4BrCl
reactant | sodium hydroxide | 2.65 mol, 105.8 g | [OH-].[Na+]
catalyst | benzyltriethylammonium chloride | 2.6 mmol, 0.6 g | [Cl-].C(C1=CC=CC=C1)[N+](CC)(CC)CC
solvent | water | 106 ml | O | H2O
product | 1-(3-bromo-phenyl)-1-cyclopropane-nitril | BrC=1C=C(C=CC1)C1(CC1)C#N | C10H8BrN
